US06545017B1
4-{2-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]ethyl}-N-methyl-N-phenylpiperidine-1-carboxamide
Using the method of Examples 54-65, N-methyl-N-phenylcarbamoyl chloride was reacted with 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 465.3006.

reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | 2-(ethoxymethyl)-6,7-dimethyl-1-(2-piperidin-4-ylethyl)-1H-imidazo[4,5-c]pyridin-4-amine | C(C)OCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCC1CCNCC1 | C18H29N5O
product | 4-{2-[4-amino-2-(ethoxymethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-1-yl]ethyl}-N-methyl-N-phenylpiperidine-1-carboxamide | NC1=NC(=C(C2=C1N=C(N2CCC2CCN(CC2)C(=O)N(C2=CC=CC=C2)C)COCC)C)C | C26H36N6O2
